US04024128
By the reaction of [(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]carbamic acid ethyl ester with trans-4-methylcyclohexylamine in a manner analogous to that described in Example 12, there is obtained 1-[(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]-3-(trans-4-methylcyclohexyl)urea.

reactant | [(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]carbamic acid ethyl ester | C(C)OC(NS(=O)(=O)C1=CC2=C(CCN(CC2)C(N(C)C)=O)C=C1)=O | C16H23N3O5S
reactant | trans-4-methylcyclohexylamine | C[C@@H]1CC[C@H](CC1)N | C7H15N
product | 1-[(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]-3-(trans-4-methylcyclohexyl)urea | CN(C(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)NC(=O)N[C@@H]2CC[C@H](CC2)C)C | C21H32N4O4S
